US04945102
1-[2-acetoxy-1-(acetoxymethyl)ethoxy]methyl-2-nitroimidazol: compound (1)
5.6 g of 2-nitroimidazol, 12.4 g of 1,3-diacetoxy-2-acetoxymethoxypropane and 0.5 g of p-toluenesulfonic acid monohydrate were placed in a flask connected with a trap for reducing pressure by an aspirator. The flask was heated by oil bath of 130°-140° C. under reduced pressure while stirred. Acetic acid was distilled out as the reaction proceeded. In about 15 minutes, the reaction was completed. After cooling down to room temperature, the content was added with about 300 ml ethyl acetate and subjected to extraction. The extract was washed with saturated aqueous sodium hydrogen carbonate, and with water in this order. Then it was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by separable high performance liquid chromatography through silica gel columns using a mixture solvent (ethyl acetate - benzene) as an eluate to obtain 13.3 g of the title compound as a viscous oil material (yield: 88.6%).

reactant | 2-nitroimidazol | 5.6 g | [N+](=O)([O-])C=1NC=CN1 | C3H3N3O2
reactant | 1,3-diacetoxy-2-acetoxymethoxypropane | 12.4 g | C(C)(=O)OCC(COC(C)=O)OCOC(C)=O | C10H16O7
catalyst | p-toluenesulfonic acid monohydrate | 0.5 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | 1-[2-acetoxy-1-(acetoxymethyl)ethoxy]methyl-2-nitroimidazol | 13.3 g | C(C)(=O)OCC(OCN1C(=NC=C1)[N+](=O)[O-])COC(C)=O | C11H15N3O7
